US06646106B1
The hydrogenation of methyl acetoacetate results in methyl 3-hydroxybutanoate; the hydrogenation of methyl 3-oxovalerate results in methyl 3-hydroxypentanoate; and the hydrogenation of methyl 3-oxo-6-octenoate results in a mixture of methyl 3-hydroxyoctanoate and methyl 3-hydroxy-6-octenoate.

reactant | methyl 3-hydroxyoctanoate | OC(CC(=O)OC)CCCCC | C9H18O3
solvent | methyl 3-hydroxy-6-octenoate | OC(CC(=O)OC)CCC=CC | C9H16O3
product | methyl 3-oxo-6-octenoate | O=C(CC(=O)OC)CCC=CC | C9H14O3
